US06046216
3-Cyano-6-(2 methoxyphenyl)-2(1H)-pyridinone
A stirred mixture of 3-dimethylamino-1-(2-methoxyphenyl)-2-propene-1-one (5.74 g), cyanoacetamide (2.48 g) and sodium methoxide (from sodium hydride (50%, 4.32 g) and methanol (3.5 ml) in dry dimethylformamide was heated under reflux for 10 hours. The reaction mixture was poured into water, acidified to pH 4 with glacial acetic acid and extracted with ethyl acetate. The ethyl acetate extract was evaporated under reduced pressure to low volume and water was added to cause precipitation of a crude product (3.67 g) which was collected and recrystallized twice from dimethylformamide to yield the title compound, 1.68 g, m.p. 236°-238° C.

reactant | 3-dimethylamino-1-(2-methoxyphenyl)-2-propene-1-one | 5.74 g | CN(C=CC(=O)C1=C(C=CC=C1)OC)C | C12H15NO2
reactant | cyanoacetamide | 2.48 g | C(#N)CC(=O)N | C3H4N2O
reactant | sodium methoxide | C[O-].[Na+]
reactant | sodium hydride | 4.32 g | [H-].[Na+]
solvent | dimethylformamide | CN(C=O)C | C3H7NO
solvent | acetic acid | C(C)(=O)O | C2H4O2
solvent | water | O | H2O
solvent | methanol | 3.5 ml | CO | CH4O
product | 3-Cyano-6-(2 methoxyphenyl)-2(1H)-pyridinone | C(#N)C=1C(NC(=CC1)C1=C(C=CC=C1)OC)=O | C13H10N2O2
